US06080750
2-Amino-6-chloro-4-[[(1-hydroxymethyl-3-oxo-1-cyclobutyl)methyl]-amino]pyrimidine (compound No. 41)
To 2-amino-6-chloro-4-[[(1-hydroxymethyl-3,3-dimethoxy-1-cyclobutyl)methyl]amino]pyrimidine (0.61 g, 2.0 mmol) were added acetone (50 ml) and 20% hydrochloric acid (0.5 ml), and the mixture was refluxed for 30 minutes. The mixture was neutralized with 10% ammonia-methanol under ice-cooling. The solvent was distilled away under reduced pressure and the residue was recrystallized from acetone to give colorless prism crystals (0.36 g, 70.1%), m.p. 171-173° C. (acetone).

reactant | 2-amino-6-chloro-4-[[(1-hydroxymethyl-3,3-dimethoxy-1-cyclobutyl)methyl]amino]pyrimidine | 2.0 mmol, 0.61 g | NC1=NC(=CC(=N1)NCC1(CC(C1)(OC)OC)CO)Cl | C12H19ClN4O3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | ammonia methanol | N.CO
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-Amino-6-chloro-4-[[(1-hydroxymethyl-3-oxo-1-cyclobutyl)methyl]-amino]pyrimidine | 0.36 g, 70.1% | NC1=NC(=CC(=N1)NCC1(CC(C1)=O)CO)Cl | C10H13ClN4O2
